US09063126B2
11-methyl-5,6,7,8,9,10-hexahydro-7,10-epiminocyclohepta[b]indole
A mixture of phenylhydrazine hydrochloride (2.89 g, 19.99 mmol; Aldrich) and tropinone (2.78 g, 19.99 mmol; Aldrich) in ethanol (15 mL) was heated at reflux for 3 hours. The resulting solution was cooled to room temperature and the volatiles were removed under vacuum. The residue was taken up in 7% (w/w) H2SO4/dioxane (42 g) and heated at 60° C. under nitrogen for 14 hours. The mixture was cooled to room temperature and concentrated under vacuum. The residue was dissolved in water (25 mL) and the solution was made basic (pH >9) by addition of 25% NaOH (20 mL). The resulting mixture was extracted with CH2Cl2 (2×25 mL) and the extract was concentrated to residue which was purified by flash chromatography (120 g silica eluted with CH2Cl2—CH3OH-14.8 M aqueous, 90:10:1) followed by crystallization from ethyl acetate to provide the title compound: 1H NMR (300 MHz, methanol-d4) δ ppm 1.56-1.72 (m, 1H), 1.89 (t, J=9.3 Hz, 1H), 2.20-2.34 (m, 2H), 2.36 (s, 3H), 2.46 (d, J=16.7 Hz, 1H), 3.25 (dd, J=16.7, 4.8 Hz, 1H), 3.55 (t, J=5.4 Hz, 1H), 4.20 (d, J=5.2 Hz, 1H), 6.90-7.05 (m, 2H), 7.25 (d, J=7.1 Hz, 1H), 7.38 (d, J=7.1 Hz, 1H); MS (DCI) m/z 213 (M+H)+.

reactant | phenylhydrazine hydrochloride | 19.99 mmol, 2.89 g | Cl.C1(=CC=CC=C1)NN
reactant | tropinone | 19.99 mmol, 2.78 g | CN1C2CCC1CC(=O)C2 | C8H13NO
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 11-methyl-5,6,7,8,9,10-hexahydro-7,10-epiminocyclohepta[b]indole | CN1C2CCC1C3=C(C2)NC4=CC=CC=C43 | C14H16N2
